US06620841B1
A suspension of (N-Formylhydrazino)-imino acetic acid ethyl ester (9.62 g, 60.4 mmol) in diglyme (40 ml) was refluxed for 30 minutes. After cooling, the precipitated crystal was collected by filteration and washed with hexane to give 1H-1,2,4-triazol-3-carboxylic acid ethyl ester (7.28 g) Yield: 85%.

reactant | (N-Formylhydrazino)-imino acetic acid ethyl ester | 60.4 mmol, 9.62 g | C(C)OC(C(=N)N(N)C=O)=O | C5H9N3O3
reactant | diglyme | 40 ml | COCCOCCOC | C6H14O3
product | 1H-1,2,4-triazol-3-carboxylic acid ethyl ester | 7.28 g, Yield: 85% | C(C)OC(=O)C1=NNC=N1 | C5H7N3O2
